US08034945B2
(a). 3-Bromo-5-hydroxy-4-(pyridin-3-ylmethoxy)-benzaldehyde
A mixture of 3-bromo-4,5-dihydroxy-benzaldehyde (1 g), 3-pyridinecarbinol (448 μl), diisopropyl azodicarboxylate (DIAD) (908 μl) and polymer supported triphenylphosphine (1.53 g, 3 mmol/g loading) in THF (50 ml) was stirred under a nitrogen atmosphere for 17 h. The mixture was filtered, diluted with ethyl acetate and washed with water. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silicagel in heptane/ethyl acetate 1/0→0/1 (v/v) as eluent.

reactant | 3-bromo-4,5-dihydroxy-benzaldehyde | 1 g | BrC=1C=C(C=O)C=C(C1O)O | C7H5BrO3
reactant | diisopropyl azodicarboxylate | 908 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 1.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-Bromo-5-hydroxy-4-(pyridin-3-ylmethoxy)-benzaldehyde | BrC=1C=C(C=O)C=C(C1OCC=1C=NC=CC1)O | C13H10BrNO3
